US07531553B2
To a N2 purged round bottom flask was added 2-bromo-5-nitrophenol (29.0 g, 133 mmol, 1.0 eq.) followed by 16.8 mL (133 mmol, 1.0 eq) of ethyl chlorodifluoroacetate and 18.8 g of K2CO3 (133 mmol, 1.0 eq.). Anhydrous DMF (300 mL) was added and the mixture was stirred at 70° C. for 5 h. The mixture was cooled to RT and the solvent was removed. The obtained crude mixture was dissolved in CH2Cl2 (500 mL) and washed with 1 N NaOH (aq.). The organic layer was dried (MgSO4), filtered and evaporated. The crude material was further purified by column chromatography (0-5% EtOAc in hexanes) providing pure 1-bromo-2-difluoromethoxy-4-nitro-benzene.

reactant | 2-bromo-5-nitrophenol | 133 mmol, 29.0 g, 1.0 eq. | BrC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | ethyl chlorodifluoroacetate | 133 mmol, 16.8 mL, 1.0 eq | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | K2CO3 | 133 mmol, 18.8 g, 1.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 1-bromo-2-difluoromethoxy-4-nitro-benzene | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC(F)F | C7H4BrF2NO3
